US08859773B2
3-amino-1H-indazole-6-carboxylic acid, shown below, was prepared as follows
To a solution of 4-cyano-3-fluorobenzoic acid (500 mg, 3.0 mmol) in n-butanol (9 mL) was added hydrazine monohydrate (0.5 mL, 10 mmol). The reaction was heated to 110° C. overnight. The reaction was cooled to room temperature and the precipitate was collected by filtration. The solid was then dissolved in 1 N aqueous sodium hydroxide (2 mL) and extracted with ethyl acetate (2×). The aqueous layer was acidified to pH=4 with 1 N aqueous hydrochloric acid. The resulting precipitate was collected by filtration and dried under vacuum to provide the title compound (140 mg, 26%) as a red solid. +ESI (M+H) 178.2; 1H NMR (400 MHz, CD3OD, δ): 7.99-8.01 (m, 1H), 7.73 (dd, J=8.4, 0.8 Hz, 1H), 7.61 (dd, J=8.5, 1.3 Hz, 1H).

reactant | 4-cyano-3-fluorobenzoic acid | 3.0 mmol, 500 mg | C(#N)C1=C(C=C(C(=O)O)C=C1)F | C8H4FNO2
reactant | hydrazine monohydrate | 10 mmol, 0.5 mL | O.NN
solvent | n-butanol | 9 mL | C(CCC)O | C4H10O
product | 3-amino-1H-indazole-6-carboxylic acid | 140 mg, 26% | NC1=NNC2=CC(=CC=C12)C(=O)O | C8H7N3O2
